US06420381B1
Preparation of N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3yl]-N′-[2-tert-butyl-5-(morpholinomethyl)phenyl]urea:
To a solution of 1-butyl-3-carboxy-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridine (2.0 g, 5.60 mmol) in DMF (N,N-dimethylformamide, 20 ml) are added DPPA (diphenyl phosphorylazide, 1.87 g, 6.81 mmol) and triethylamine (0.57 g, 5.68 mmol), and the mixture is stirred at room temperature for one hour, and stirred at about 60° C. for 3 hours. To the mixture is added 2-tert-butyl-5-(morpholinomethyl)aniline (1.69 g, 6.81 mmol), and the mixture is stirred at 50-60° C. for 12 hours. To the reaction solution is added water, and the mixture is extracted with ethyl acetate. The extract is washed with water and a saturated brine, and dried over anhydrous magnesium sulfate. The solvent is evaporated under reduced pressure, and the resulting residue is purified by silica gel column chromatography (chloroform to 2% methanol/chloroform) to give the title compound (3.06 g, 5.12 mmol) as colorless oil.

reactant | 1-butyl-3-carboxy-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridine | 5.60 mmol, 2.0 g | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)C(=O)O)=O | C20H20N2O4
reactant | DPPA | 6.81 mmol, 1.87 g | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 5.68 mmol, 0.57 g | C(C)N(CC)CC | C6H15N
reactant | 2-tert-butyl-5-(morpholinomethyl)aniline | 6.81 mmol, 1.69 g | C(C)(C)(C)C1=C(N)C=C(C=C1)CN1CCOCC1 | C15H24N2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-[1-butyl-4-(3-methoxyphenyl)-1,2-dihydro-2-oxo-1,8-naphthyridin-3yl]-N′-[2-tert-butyl-5-(morpholinomethyl)phenyl]urea | 5.12 mmol, 3.06 g | C(CCC)N1C(C(=C(C2=CC=CN=C12)C1=CC(=CC=C1)OC)NC(=O)NC1=C(C=CC(=C1)CN1CCOCC1)C(C)(C)C)=O | C35H43N5O4
